US07825128B2
(RS)—S-(4-{[5-(2-benzyl-2H-tetrazol-5-yl)-4-(cyclohexylamino)pyrimidine-2-yl]-amino}phenyl)-S-methylsulfoximide
28 mg (0.048 mmol) (RS)—S-(4-{[5-(2-benzyl-2H-tetrazol-5-yl)-4-(cyclohexyl-amino)pyrimidine-2-yl]amino}phenyl)-N-(ethoxycarbonyl)-S-methylsulfoximide in 0.4 ml ethanol are treated with 78 μL (0.119 mmol) of a freshly prepared 1.53 molar sodium ethanolate solution and stirred for 22 hours at 60° C. Next, a further 0.15 ml (0.229 mmol) of the 1.53 molar sodium ethanolate solution is added, and the mixture stirred for a further 22 hours at 60° C. The mixture is treated with saturated NaCl solution and extracted with ethyl acetate. The combined organic phases are dried (Na2SO4), filtered and concentrated. 24 mg (0.048 mmol, corresponding to 100% of theor.) of the product is obtained.

reactant | (RS)—S-(4-{[5-(2-benzyl-2H-tetrazol-5-yl)-4-(cyclohexyl-amino)pyrimidine-2-yl]amino}phenyl)-N-(ethoxycarbonyl)-S-methylsulfoximide | 0.048 mmol, 28 mg | C(C1=CC=CC=C1)N1N=C(N=N1)C=1C(=NC(=NC1)NC1=CC=C(C=C1)S(=O)(=NC(=O)OCC)C)NC1CCCCC1 | C28H33N9O3S
reactant | sodium ethanolate | 1.53 molar | C(C)[O-].[Na+]
reactant | sodium ethanolate | 1.53 molar | C(C)[O-].[Na+]
reactant | NaCl | [Na+].[Cl-]
solvent | ethanol | 0.4 ml | C(C)O | C2H6O
product | (RS)—S-(4-{[5-(2-benzyl-2H-tetrazol-5-yl)-4-(cyclohexylamino)pyrimidine-2-yl]-amino}phenyl)-S-methylsulfoximide | C(C1=CC=CC=C1)N1N=C(N=N1)C=1C(=NC(=NC1)NC1=CC=C(C=C1)S(=O)(=N)C)NC1CCCCC1 | C25H29N9OS
